US05750050
Step 2.1 Preparation of 4-Bromo-1-decyloxy-2-fluorobenzene.
A solution of 1-bromodecane in butanone was added dropwise to a stirred refluxing solution of 4-bromo-2-fluorophenol and potasium carbonate. The stirred mixture was heated under reflux for 24 hr. The potassium carbonate was filtered off and the solvent removed. The product was distilled at 130° C. at 0.05 mmHg.

reactant | 1-bromodecane | BrCCCCCCCCCC | C10H21Br
reactant | 4-bromo-2-fluorophenol | BrC1=CC(=C(C=C1)O)F | C6H4BrFO
reactant | potasium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | butanone | CC(CC)=O | C4H8O
product | 4-Bromo-1-decyloxy-2-fluorobenzene | BrC1=CC(=C(C=C1)OCCCCCCCCCC)F | C16H24BrFO
